US04515968
PREPARATION OF 2-BENZYL-4-METHYL-1,3-DITHIOLANE
Into a 100 cc reaction flask equipped with reflux condenser, magnetic stirring bar and thermometer and hot plate equipped with magnetic stirring apparatus is placed 5 ml cyclohexane, 0.2 grams of para-toluenesulfonic acid and 5.4 grams (0.05 moles) of 1,2-propanedithiol. With stirring, over a period of 30 minutes, 6 grams (0.05 moles) of phenylacetaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and refluxed for a period of 8 hours. During the refluxing period, water of reaction is removed. At the end of the refluxing period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is then washed with one 50 ml portion of saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and filtered. The resulting filtrate is distilled on a Microvigreux column yielding the following three fractions:

reactant | cyclohexane | 5 ml | C1CCCCC1 | C6H12
reactant | para-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,2-propanedithiol | 0.05 moles, 5.4 grams | C(C(C)S)S | C3H8S2
reactant | phenylacetaldehyde | 0.05 moles, 6 grams | C1(=CC=CC=C1)CC=O | C8H8O
solvent | water | O | H2O
product | 2-BENZYL-4-METHYL-1,3-DITHIOLANE | C(C1=CC=CC=C1)C1SCC(S1)C | C11H14S2
